US04882340
7-Hydroxymethyl-2-phenylbenzofuran (1.57 g) is dissolved in dimethylsulfoxide (10 ml), and sodium hydride (60% oil dispersion) (0.57 g) is added thereto. After the mixture is stirred for 10 minutes, N-(2-chloroethyl)piperidine hydrochloride (1.35 g) is added to the mixture and the mixture is stirred at room temperature for 4 hours. The mixture is diluted with water and extracted with ethyl acetate. The extract is washed with water, dried and concentrated under reduced pressure to remove solvent. The residue is converted to its hydrochloride and recrystallized from ethyl acetate, whereby 7-[(2-piperidinoethoxy)methyl]-2-phenylbenzofuran hydrochloride (1.32 g) is obtained. Yield: 51%.

reactant | 7-Hydroxymethyl-2-phenylbenzofuran | 1.57 g | OCC1=CC=CC=2C=C(OC21)C2=CC=CC=C2 | C15H12O2
reactant | sodium hydride | 0.57 g | [H-].[Na+]
reactant | N-(2-chloroethyl)piperidine hydrochloride | 1.35 g | Cl.ClCCN1CCCCC1
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 7-[(2-piperidinoethoxy)methyl]-2-phenylbenzofuran hydrochloride | 1.32 g, Yield: 51% | Cl.N1(CCCCC1)CCOCC1=CC=CC=2C=C(OC21)C2=CC=CC=C2 | InChI=1S/C22H25NO2.ClH/c1-3-8-18(9-4-1)21-16-19-10-7-11-20(22(19)25-21)17-24-15-14-23-12-5-2-6-13-23;/h1,3-4,7-11,16H,2,5-6,12-15,17H2;1H
